US05385922
N-acetyl-4-carboxy-2-(2-phenylethyl)thiazolidine
A solution of 10 g of 3-phenylpropionaldehyde in THF was added to a solution of 10 g of cysteine in water. The resulting solution was stirred for 1 hour and then concentrated in vacuo. The precipitate was filtered off and washed with water and diethyl ether. The solid substance was dissolved in water which contained 12.5 g of potassium carbonate. 7.8 g of acetic anhydride were added at 0° C. and the resulting was stirred for 1 hour, after which the mixture was acidified to pH=2 with dilute sulphuric acid. This mixture was stirred for 30 minutes. The precipitate was filtered off, washed with water and dried. Yield 90%.

reactant | 3-phenylpropionaldehyde | 10 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | cysteine | 10 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-acetyl-4-carboxy-2-(2-phenylethyl)thiazolidine | Yield 90% | C(C)(=O)N1C(SCC1C(=O)O)CCC1=CC=CC=C1 | C14H17NO3S
